US09062070B2
To a cooled (0° C.) solution of 5-bromo-2-benzofuran-1(3H)-one (50 g, 0.235 mol) in trifluoromethanesulfonic acid (400 mL) was added N-iodosuccinimide (55.5 g, 0.247 mol). The resulting mixture was stirred at room temperature overnight, then poured slowly into ice water (2 L), filtered and the filtrate extracted with EtOAc. The combined organic layers were washed with water and brine, dried and concentrated to give 5-bromo-4-iodo-2-benzofuran-1(3H)-one.

reactant | 5-bromo-2-benzofuran-1(3H)-one | 0.235 mol, 50 g | BrC1=CC2=C(C(OC2)=O)C=C1 | C8H5BrO2
reactant | N-iodosuccinimide | 0.247 mol, 55.5 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | trifluoromethanesulfonic acid | 400 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 5-bromo-4-iodo-2-benzofuran-1(3H)-one | BrC1=C(C2=C(C(OC2)=O)C=C1)I | C8H4BrIO2
